US07625922B2
1-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)naphthalen-1-yl)-3-(3-(trifluoromethyl)phenyl)urea (CJS 3681)
Method H2 was used with 7-(4-aminonaphthalen-1-yl-oxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one (30 mg, 0.10 mmol) and 1-isocyanato-3-(trifluoromethyl)benzene (21 mg, 0.11 mmol) to afford the title compound as a brown solid (31 mg, 65%). 1H-NMR (δ, ppm, DMSO-d6): 6.21 (d, 1H, HPy,5, J=5.5 Hz), 7.32 (m, 2H, Harom,Naph), 7.53-7.71 (m, 5H, Harom,naph+Ph′), 7.96 (t, 2H, Harom,naph), 8.09 (s, 1H, Harom,Ph), 8.19 (d, 1H, HPy,6, J=5.5 Hz), 8.96 and 9.46 (bs, 2H, NHurea) 11.39 (s, NH, NHPy), 11.44 (s, NH, NHPy). LC-MS (m/z): 480 (M+H, 100).

reactant | 7-(4-aminonaphthalen-1-yl-oxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.10 mmol, 30 mg | NC1=CC=C(C2=CC=CC=C12)OC1=C2C(=NC=C1)NC(N2)=O | C16H12N4O2
reactant | 1-isocyanato-3-(trifluoromethyl)benzene | 0.11 mmol, 21 mg | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
product | 1-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl-oxy)naphthalen-1-yl)-3-(3-(trifluoromethyl)phenyl)urea | 31 mg, 65% | O=C1NC=2C(=NC=CC2OC2=CC=C(C3=CC=CC=C23)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)N1 | C24H16F3N5O3
